US08975400B2
7-((3,5-difluoro-4-(4-fluorophenoxy)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E60 using tert-butyl 7-((3,5-difluoro-4-(4-fluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carbo-xylate (150 mg, 0.306 mmol) and TFA (2 mL, 26.0 mmol) in DCM (10 mL).

reactant | tert-butyl 7-((3,5-difluoro-4-(4-fluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carbo-xylate | 0.306 mmol, 150 mg | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=C(C1OC1=CC=C(C=C1)F)F | C24H22F3N3O5
reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-((3,5-difluoro-4-(4-fluorophenoxy)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3)C=C(C1OC1=CC=C(C=C1)F)F | C19H14F3N3O3
